US08703795B2
a) 7-Cyano-4-hydroxy-thieno[2,3-c]pyridine-5-carboxylic acid butyl ester
A mixture of 7-bromo-4-hydroxy-thieno[2,3-c]pyridine-5-carboxylic acid butyl ester (example 43 a, 165 mg, 0.5 mmol), CuCN (91 mg, 1 mmol), and dimethylformamide (2 ml) was heated in a microwave oven at 160° C. with stirring for 15 min. After cooling to ambient temperature water (20 ml) was added and the mixture was extracted with ethyl acetate (1×60 ml). The resulting mixture was filtered through a pad of celite. The organic phase was washed with water (2×25 ml), dried over MgSO4, and concentrated in vacuo to give the title compound as tan solid (72 mg); MS-(−)-ion: MS-(−)-ion: M−1=275.1.

reactant | 7-bromo-4-hydroxy-thieno[2,3-c]pyridine-5-carboxylic acid butyl ester | C(CCC)OC(=O)C=1C(=C2C(=C(N1)Br)SC=C2)O | C12H12BrNO3S
reactant | CuCN | 1 mmol, 91 mg | C(#N)[Cu]
reactant | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | water | 20 ml | O | H2O
product | 7-Cyano-4-hydroxy-thieno[2,3-c]pyridine-5-carboxylic acid butyl ester | 72 mg | C(CCC)OC(=O)C=1C(=C2C(=C(N1)C#N)SC=C2)O | C13H12N2O3S
